US08044068B2
To a solution of 2-chloro-4,6-dimethylquinoline (1.31 g) in chloroform (20 mL) was added N-bromosuccinimide (1.24 g) at room temperature. The reaction solution was heated at 70° C., and benzoyl peroxide (0.25 g) was divided into 5 portions and added at intervals of a few tens of min. The mixture was stirred at the same temperature for 1 h. The reaction solution was cooled to room temperature and diluted with ethyl acetate, then the organic layer was washed with a mixed solution of saturated aqueous sodium thiosulfate and saturated brine and saturated brine. The organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane=10:1) to obtain 6-bromomethyl-2-chloro-4-methylquinoline (0.79 g).

reactant | 2-chloro-4,6-dimethylquinoline | 1.31 g | ClC1=NC2=CC=C(C=C2C(=C1)C)C | C11H10ClN
reactant | N-bromosuccinimide | 1.24 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.25 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-bromomethyl-2-chloro-4-methylquinoline | 0.79 g | BrCC=1C=C2C(=CC(=NC2=CC1)Cl)C | C11H9BrClN
